data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_304792_0,[N:1](\[C:2](/[C:4](=[N:5]/[H:10])[H:11])([O:6][H:9])[H:7])=[N:3]/[H:8]>>[N:1]([C:2](/[C:4](=[N:5]/[H:10])[H:11])=[O:6])([N:3]([H:8])[H:9])[H:7],34.31922999999287
MR_156099_1,[C:1]([C:2]([N:5]([C:3]([H:14])([H:15])[H:16])[C:6](=[O:8])[H:11])([H:12])[H:13])([C:4]([H:17])([H:18])[H:19])([O:7][H:9])[H:10]>>[C:1]([C:2]([N:5]([C:3]([H:14])([H:15])[H:16])[C:6]([O:8][H:9])([H:10])[H:11])([H:12])[H:13])([C:4]([H:17])([H:18])[H:19])=[O:7],59.77314000000391
MR_408393_0,[C:1](=[C:4](/[N:6]([H:14])[H:15])[N:8]([C:2]([H:16])([H:17])[H:18])[C:3]([O:7][H:10])=[O:9])(\[N:5]([H:12])[H:13])[H:11]>>[C:1]([C:3]([O:7][H:10])=[O:9])(/[C:4]([N:6]([H:14])[H:15])=[N:8]/[C:2]([H:16])([H:17])[H:18])([N:5]([H:12])[H:13])[H:11],50.37632750000853
MR_172981_0,[C:1](/[C:4](=[C:5]([C:2]([H:14])([H:15])[H:16])\[C:6]([C:3]([H:17])([H:18])[H:19])=[N:8]/[H:10])[O:7][H:9])([H:11])([H:12])[H:13]>>[C:1]([C@@:4]1([O:7][H:9])[C:5]([C:2]([H:14])([H:15])[H:16])=[C:6]([C:3]([H:17])([H:18])[H:19])[N:8]1[H:10])([H:11])([H:12])[H:13],36.74326250000789
MR_392904_0,[C:1]([N:3]([N:2](/[C:5](=[C:4](/[O:6][H:7])[H:10])[H:11])[H:8])[H:9])([H:12])([H:13])[H:14]>>[C:1]([N:3]([C:4](/[C:5](=[N:2]\[H:8])[H:11])([O:6][H:7])[H:10])[H:9])([H:12])([H:13])[H:14],47.974885000007816
MR_235247_1,[C:1]([C:5](/[C:4]([N:7]([H:10])[H:11])=[C:9](/[N:8]([H:12])[H:13])[H:14])=[C:6]([C:2]([H:18])([H:19])[H:23])[C:3]([H:20])([H:21])[H:22])([H:15])([H:16])[H:17]>>[C:1]([C:5]1=[C:4]([N:7]([H:10])[H:11])[C:9]([N:8]([H:12])[H:13])([H:14])[C:6]1([C:2]([H:18])([H:19])[H:23])[C:3]([H:20])([H:21])[H:22])([H:15])([H:16])[H:17],32.35452749995957
MR_440409_0,[C:1](/[C:2]([O:5]/[C:3](=[C:4](\[O:6][H:8])[H:11])[H:10])=[N:7]\[H:9])([H:12])([H:13])[H:14]>>[C:1](/[C:2]([C:3]([C:4](=[O:6])[H:11])([O:5][H:8])[H:10])=[N:7]\[H:9])([H:12])([H:13])[H:14],59.38283500002626
MR_121757_0,[C:1]([C:2]([N:6]([H:11])[H:12])([H:13])[H:14])([C:4]([C:3]([H:15])([H:16])[H:17])=[O:7])([N:5]([H:9])[H:10])[H:8]>>[C:1]([C:3]([H:15])([H:16])[H:17])([C:4]([C:2]([N:6]([H:11])[H:12])([H:13])[H:14])=[O:7])([N:5]([H:9])[H:10])[H:8],56.93997749998744
MR_392214_0,[C:1]1([H:10])([H:11])[N:2]([H:7])[O:6][C:3]([N:4]([H:8])[H:9])=[C:5]1[H:12]>>[C:1](=[C:5]([C:3]1([N:4]([H:8])[H:9])[N:2]([H:7])[O:6]1)[H:12])([H:10])[H:11],47.43084250002596
MR_515330_0,[C:1]([C:2]([C:4]([C:3]([N:6]([H:13])[H:14])([H:17])[H:18])([N:5]([H:11])[H:12])[O:8][H:9])([H:15])[H:16])(=[O:7])[H:10]>>[C:1]([C:2]([C:4]([N:5]([H:11])[H:12])=[O:8])([H:15])[H:16])([C:3]([N:6]([H:13])[H:14])([H:17])[H:18])([O:7][H:9])[H:10],50.521907499962
MR_619142_0,[C:1]([N:4](/[C:5]([C:3]([H:16])([H:17])[H:18])=[N:7]/[C:2]([H:13])([H:14])[H:15])[N:6]([H:8])[H:9])([H:10])([H:11])[H:12]>>[C:1]([N:7]([C:2]([H:13])([H:14])[H:15])/[C:5]([C:3]([H:16])([H:17])[H:18])=[N:4]/[N:6]([H:8])[H:9])([H:10])([H:11])[H:12],64.5484150000037
MR_117519_1,[C:1]([N:5]([C:6]([C:2]([C:3]([H:16])([H:17])[H:20])([C:4]([H:18])([H:19])[H:21])[H:13])([N:7]([H:14])[H:15])[O:9][H:10])[H:11])(=[O:8])[H:12]>>[C:1]([C:2]([C:3]([H:16])([H:17])[H:20])([C:4]([H:18])([H:19])[H:21])[H:13])([N:5]([C:6]([N:7]([H:14])[H:15])=[O:9])[H:11])([O:8][H:10])[H:12],70.84726000000913
MR_221644_0,[C:1]1([O:6][C:3]([H:11])([H:12])[H:13])([H:7])[C:2]([N:4]([H:9])[H:10])([H:8])[O:5]1>>[C:1]([C:2]([N:4]([H:9])[H:10])([O:6][C:3]([H:11])([H:12])[H:13])[H:8])(=[O:5])[H:7],23.690007499970136
MR_495633_0,[C:1](/[C:3](=[N:6]\[H:9])[O:7][C:2](=[O:4])[O:5][H:8])([H:10])([H:11])[H:12]>>[C:1](/[C:3]([O:4][C:2]([O:5][H:8])=[O:7])=[N:6]\[H:9])([H:10])([H:11])[H:12],35.469437499978085
MR_137665_0,[C:1]([C:3](=[C:4]([H:12])[H:13])[O:5][C:2]([O:6][H:8])=[O:7])([H:9])([H:10])[H:11]>>[C:1]([C:3](=[C:4]([H:12])[H:13])[O:7][C:2](=[O:5])[O:6][H:8])([H:9])([H:10])[H:11],47.523085000007086
MR_699500_1,[C:1](/[C:3]([C:2]([H:15])([H:16])[H:17])=[C:5](/[N:4]([H:12])[H:13])[H:14])([O:6][H:11])([O:7][H:9])[O:8][H:10]>>[C:1](=[C:3]([C:2]([H:15])([H:16])[H:17])[C:5]([N:4]([H:12])[H:13])([O:6][H:11])[H:14])([O:7][H:9])[O:8][H:10],46.93260749999979
MR_391713_0,[C@:1]([C@:2]([C:4]([H:18])([H:19])[H:20])([O:8][H:10])[H:12])([N:5]([C:3]([H:15])([H:16])[H:17])[O:7][H:9])([N:6]([H:13])[H:14])[H:11]>>[C@@:1]([N:5]([C@:2]([C:4]([H:18])([H:19])[H:20])([O:8][H:10])[H:12])[C:3]([H:15])([H:16])[H:17])([N:6]([H:13])[H:14])([O:7][H:9])[H:11],65.83792749995823
MR_162121_1,[C:1]([C:2]([H:16])([H:17])[H:18])(/[C:3]([N:4]([H:9])[H:10])=[C:7](/[N:6]([H:13])[H:14])[H:15])([N:5]([H:11])[H:12])[H:8]>>[C:1](\[C:2]([H:16])([H:17])[H:18])(=[C:3](/[N:4]([H:9])[H:10])[C:7]([N:5]([H:11])[H:12])([N:6]([H:13])[H:14])[H:15])[H:8],62.93448499997652
MR_530355_1,[C:1]([C:3](/[C:4](=[N:7]\[H:8])[H:11])=[C:5]([H:15])[H:16])([O:6][C:2]([H:12])([H:13])[H:14])([H:9])[H:10]>>[C:1](=[C:3](/[C:4](=[N:7]\[H:8])[H:11])[C:5]([O:6][C:2]([H:12])([H:13])[H:14])([H:15])[H:16])([H:9])[H:10],64.58732000001248
